US07456176B2
Synthesis of 1-[2-(3-bromo-phenylsulfanyl)-ethyl]-pyrrolidine
1-(2-chloroethyl)pyrrolidine hydrochloride (1.0 equiv., 8.82 mmol) and 3-bromothiophenol (1.5 equiv., 13.23 mmol) were dissolved in acetonitrile (100 mL). Potassium carbonate (10.0 equiv., 88.2 mmol) was added to the reaction while stirring. The reaction was kept in oil bath at 80° C. to reflux for 18 h. The reaction was then cooled to room temperature and filtered to remove excess inorganics, and the organics were extracted with saturated NaHCO3 and brine. The organics were dried over Na2SO4 then concentrated under reduced pressure. The resulting crude oil was purified by flash chromatography using 4:6 EtOAc/hexanes. The fractions were concentrated to afford product as a yellow oil (792.3 mg, 32% yield). Rf=0.75 MS (ES+): m/z=287 LC retention time: 1.81 min.

reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 8.82 mmol, 1.0 equiv. | Cl.ClCCN1CCCC1
reactant | 3-bromothiophenol | 13.23 mmol, 1.5 equiv. | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | Potassium carbonate | 88.2 mmol, 10.0 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-[2-(3-bromo-phenylsulfanyl)-ethyl]-pyrrolidine | 792.3 mg, 32% yield | BrC=1C=C(C=CC1)SCCN1CCCC1 | C12H16BrNS
